US06686381B2
4-Methyl-N-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-propyl}-benzenesulfonamide
[2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone was dissolved in dichloromethane and triethylamine and toluene-4-sulfonyl chloride added. The mixture was stirred overnight at room temperature, poured into 1 M pH4 phosphate buffer (5 ml) and extracted with dichloromethane (3×10 ml). The combined organic phases were dried over magnesium sulfate and evaporated. The oily residue was purified by column chromatography on silica gel (13:7 hexane/acetone eluant), using a small amount of dichloromethane to apply the mixture to the column. The title compound was isolated as an off-white solid. MS (m/e): 428.3 (M−H, 100%).

reactant | [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone | NCCCNC=1SC(=CN1)C(=O)C1=C(C=CC=C1)C | C14H17N3OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | phosphate | 1 M, 5 ml, pH4 | P(=O)([O-])([O-])[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methyl-N-{3-[5-(2-methyl-benzoyl)-thiazol-2-ylamino]-propyl}-benzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)NCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O | C21H23N3O3S2
